US08022076B2
A stirred solution of (4-oxo-5-phenyl-3,4-dihydrothieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester (1.0 g, 3.185 mmol), phosphoryl chloride (15 ml) and N,N-dimethylaniline (4.8 ml) was heated under reflux for 6 hours and then left to stand at ambient temperature for 18 hours. The excess phosphoryl chloride was removed in vacuo to give a dark residue, which was dissolved in dichloromethane (100 ml) and then washed with water (2×50 ml) followed by saturated sodium hydrogen carbonate solution (50 ml). The organic layer was dried (MgSO4) and the solvent was removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with dichloromethane and 40°-60° petroleum ether (3:1) gave (4-chloro-5-phenylthieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester as a pale-yellow solid (0.86 g).

reactant | (4-oxo-5-phenyl-3,4-dihydrothieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester | 3.185 mmol, 1.0 g | C(C)OC(CC=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O)=O | C16H14N2O3S
reactant | phosphoryl chloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 4.8 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (4-chloro-5-phenylthieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester | 0.86 g | C(C)OC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl)=O | C16H13ClN2O2S
